US04737519
A 500 ml two-necked round-bottomed flask, which is equipped with a stirring bar, a septum cap and an argon-vacuum inlet, is evacuated and filled with argon three times. Freshly distilled tetrahydrofuran (100 ml) and furan (7.5 ml, 0.1 mole) are placed in the flask, which are then cooled at -78° C. with a dry ice-acetone bath. n-Butyl lithium (62 ml, 1.60 mmole/ml, n-hexane solution) is introduced via syringe to the furan solution slowly over a period of 15-20 minutes at -78° C. The resulting solution is warmed to -20° C., and stirred at this temperature for 15 hours (overnight) under argon. The 1000 ml three-necked round bottomed flask is equipped with a stirring bar, a septum cap and an argon-vacuum inlet. Chromium hexacarbonyl (22 g, 0.1 mole) is placed in this flask, which is evacuated and filled with argon three times. Dry ether (200 ml) is added, and to this suspension is added the cooled (-20° C.) solution of 2-lithiofuran at room temperature. During the procedure, chromium hexacarbonyl is dissolved and the solution turns to a deep red color. The resulting solution is stirred at room temperature 1 hour under argon, then concentrated using a rotary evaporator until the solution becomes a tarry residue (during concentration, the bath temperature is kept below 40° C.). The deep red residue is dissolved in 200 ml water and trimethyloxonium tetrafluoroborate ((CH3)3O.BF4) (solid) is added to the aqueous solution until it becomes slightly acidic (about pH≈5.5) (15 g of (CH3)3O.BF4 is used). The aqueous layer is extracted three times with 250 ml of ether, and the combined extracts are washed once with 300 ml of saturated brine, once with 300 ml of saturated sodium carbonate aqueous solution, and again three times with 300 ml of saturated brine, dried over anhydrous sodium sulfate under argon atmosphere, and filtered. The solvent is removed using a rotary evaporator to give a deep red oil, which is dissolved in a small amount of methylene chloride and loaded on a silica gel column (200 g) using a flash chromatography apparatus. Separation of the products by column chromatography is carried out under a nitrogen atmosphere. Elution by 5% ether in n-hexane gives 27.5 g (90.9%) of pentacarbonyl[ 2-furyl(methoxy)carbene]chromium as deep red crystalline and elution by 20% ether in n-hexane gives 0.9 g (24%) of pentacarbonyl-[2-furyl(methoxybutoxy)carbene]chromium as a deep red oil.

reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | furan | 0.1 mole, 7.5 ml | O1C=CC=C1 | C4H4O
reactant | n-Butyl lithium | 1.60 mmole/ml, 62 ml | C(CCC)[Li]
reactant | Chromium hexacarbonyl | 0.1 mole, 22 g | [C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Cr]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | pentacarbonyl[ 2-furyl(methoxy)carbene]chromium | 27.5 g, 90.9% | C(=O)=[Cr](=C(OC)C=1OC=CC1)(=C=O)(=C=O)(=C=O)=C=O | InChI=1S/C6H6O2.5CO.Cr/c1-7-5-6-3-2-4-8-6;5*1-2;/h2-4H,1H3;;;;;;
